US07528129B2
1h (R)-1-(4-methyl-2-oxo-2,3-dihydro-benzoxazol-6-ylmethyl)-2-oxo-2-[4-(tetrahydropyran-4-yl)-piperazin-1-yl]-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
30 mg (0.18 mmol) 1-(tetrahydropyran-4-yl)-piperazine were added at RT to a solution of 70 mg (0.14 mmol) (R)-1-carboxy-2-(4-methyl-2-oxo-2,3-dihydro-benzoxazol-6-yl)-ethyl 4-(2-oxo-1,2,4,5,-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate, 50 mg (1.12 mmol) TBTU and 25 μL (0.18 mmol) triethylamine in 1 mL DMF and the reaction solution was stirred overnight. It was purified by HPLC without any further working up; the fractions containing the product were combined and lyophilised.

reactant | 1-(tetrahydropyran-4-yl)-piperazine | 0.18 mmol, 30 mg | O1CCC(CC1)N1CCNCC1 | C9H18N2O
reactant | (R)-1-carboxy-2-(4-methyl-2-oxo-2,3-dihydro-benzoxazol-6-yl)-ethyl 4-(2-oxo-1,2,4,5,-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.14 mmol, 70 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC3=C(NC(O3)=O)C(=C1)C)C(=O)O)C=CC=C2 | C26H28N4O7
reactant | TBTU | 1.12 mmol, 50 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 0.18 mmol, 25 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R)-1-(4-methyl-2-oxo-2,3-dihydro-benzoxazol-6-ylmethyl)-2-oxo-2-[4-(tetrahydropyran-4-yl)-piperazin-1-yl]-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(N1CCN(CC1)C1CCOCC1)=O)CC1=CC3=C(NC(O3)=O)C(=C1)C)C=CC=C2 | C35H44N6O7
